US07652015B2
[5-(1-Fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester
Slowly add ClCO2CH2CCl3 (1.00 equiv; 717.49 μmoles; 152.01 mg) to a solution of 5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine (176 mg, 0.71 mmoles) and pyridine in 4 mL of THF under nitrogen at 0° C. Stir the mixture from 0° C. to room temperature for 5 hours. Filter the insoluble and remove solvent from filtrate under reduced pressure give an oil. Subject oil to chromatorgraphy (hex/AcOEt 20-80%) to give 110 mg of title compound as a yellow oil. MS (ES+): m/z=420.0 [M+H].

reactant | ClCO2CH2CCl3 | 717.49 μmoles, 152.01 mg, 1.00 equiv | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine | 0.71 mmoles, 176 mg | FCC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H16FN3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [5-(1-Fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester | 110 mg | ClC(COC(NC=1N(N=C(C1)C1(CC1)CF)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H17Cl3FN3O2
